US07642361B2
3-Chloropropane-1-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-amide
Add 3-chloropropanesulfonyl chloride (0.285 g, 1.6 mmol) to a suspension of 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethylamine (0.383 g, 1.3 mmol) in dichloromethane (10 mL) at 0° C. Then slowly add DBU (0.457 g, 3.0 mmol) and allow the mixture to warm up to 23° C. Stir 2 h at 23° C. and add more dichloromethane and 1M HCl. Separate layers and wash organic phase with more HCl (×2). Back-extract aqueous phase with dichloromethane (×2). Combine organic phases and wash them with brine, dry over sodium sulfate, concentrate over Celite® and purify by flash chromatography (silica gel), eluting with hexanes-ethyl acetate 3:1 to give 0.333 g of the desired compound as a thick oil. Mass spectrum ESI positive (m/z): 388 (M+1), 410 (M+23).

reactant | 3-chloropropanesulfonyl chloride | 1.6 mmol, 0.285 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethylamine | 1.3 mmol, 0.383 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCN)C | C14H22BNO2
reactant | DBU | 3.0 mmol, 0.457 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-Chloropropane-1-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-amide | 0.333 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCNS(=O)(=O)CCCCl)C | C17H27BClNO4S
